US04180670
N-[(5-oxazolyl)(2-pyridyl)methyl]-4-pyridinamine
The title compound is prepared by reacting 4-oxazolyl lithium (obtained from 5-bromooxazole and butyl lithium) with 4-(2-pyridylmethyleneamino)pyridine in a manner similar to Examples 5, 6 and 7.

reactant | 4-oxazolyl lithium | O1C=NC(=C1)[Li]
reactant | 4-(2-pyridylmethyleneamino)pyridine | N1=C(C=CC=C1)C=NC1=CC=NC=C1 | C11H9N3
product | N-[(5-oxazolyl)(2-pyridyl)methyl]-4-pyridinamine | O1C=NC=C1C(NC1=CC=NC=C1)C1=NC=CC=C1 | C14H12N4O
